US07273877B2
4-(2-Fluoro-4-iodoanilino)-N-(2-hydroxyethoxy)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide (330 mg, 0.74 mmol), CuI (3 mg, 0.01 mmol) and (Ph3P)2PdCl2 (104 mg, 0.01 mmol) were dissolved dry THF (2 mL) in a flask which was then flushed with nitrogen. A solution of propargyl alcohol (47 mg, 0.81 mmol) in TEA (2 mL) was added to the reaction, which was stirred at R.T. for 15 h. The solvent was removed under reduced pressure, then the residue purified by chromatography on silica gel (10% MeOH/CH2Cl2 as eluant), giving 4-[2-fluoro-4-(3-hydroxy-1-propynyl)anilino]-N-(2-hydroxyethoxy)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide as a viscous, transparent oil (44%). 1H NMR [(CD3)2SO, 400 MHz] δ 11.50 (v br s, 1H), 9.60 (s, 1H), 8.16 (s, 1H), 7.49 (t, J=8.3 Hz, 1H), 7.40 (dd, J=10.1, 1.9 Hz, 1H), 7.28 (dd, J=8.3, 1.4 Hz, 1H), 5.67 (s, 1H), 5.37 (t, J=5.1 Hz, 1H), 4.73 (br s, 1H), 4.30 (d, J=4.8 Hz, 2H), 3.91 (t, J=4.8 Hz, 2H), 3.62 (br t, J=4.8 Hz, 2H), 3.36 (s, 3H). LCMS (APCI+) calcd for C18H19N3O5F 376 (MH+), found 376.

reactant | 4-(2-Fluoro-4-iodoanilino)-N-(2-hydroxyethoxy)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide | 0.74 mmol, 330 mg | FC1=C(NC=2C(=CN(C(C2)=O)C)C(=O)NOCCO)C=CC(=C1)I | C15H15FIN3O4
reactant | propargyl alcohol | 0.81 mmol, 47 mg | C(C#C)O | C3H4O
catalyst | CuI | 0.01 mmol, 3 mg | [Cu]I
catalyst | (Ph3P)2PdCl2 | 0.01 mmol, 104 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-[2-fluoro-4-(3-hydroxy-1-propynyl)anilino]-N-(2-hydroxyethoxy)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide | FC1=C(NC=2C(=CN(C(C2)=O)C)C(=O)NOCCO)C=CC(=C1)C#CCO | C18H18FN3O5
